US06699887B2
A solution containing 170 mg of [5-chloro-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone in 10 ml of N,N-dimethylformamide was treated with 83 mg of potassium carbonate and 107 mg of 3,5-dichlorothiophenol. The mixture was heated at 100° C. for 4 h. The mixture was treated with a further 83 mg of potassium carbonate and 107 mg of 3,5-dichlorothiophenol. The mixture was then heated at 50° C. for 64 h. The mixture was treated with a further 83 mg of potassium carbonate and 107 mg of 3,5-dichlorothiophenol. The mixture was then heated at 100° C. for 2 h. The solvent was removed under reduced pressure and residue partitioned between dichloromethane/water, washed with brine then dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was purified via flash chromatography on silica gel using diethyl ether/petroleum ether (1:4 to 1:3) to give 140 mg of [5-(3,5-dichlorophenylthio)-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone as a colourless oil. Mass spectrum (ES) m/z 483[M+H]+.

reactant | [5-chloro-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone | 170 mg | ClC1=C(C(=NN1CC1=CC=C(C=C1)OC)C)C(=O)C1=CC=CC=C1 | C19H17ClN2O2
reactant | potassium carbonate | 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichlorothiophenol | 107 mg | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
reactant | potassium carbonate | 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichlorothiophenol | 107 mg | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
reactant | potassium carbonate | 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichlorothiophenol | 107 mg | ClC=1C=C(C=C(C1)Cl)S | C6H4Cl2S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [5-(3,5-dichlorophenylthio)-1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone | 140 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1CC1=CC=C(C=C1)OC)C)C(=O)C1=CC=CC=C1 | C25H20Cl2N2O2S
